US04824468
2-(m-Trifluoromethylphenyl)-3-(3-trifluoromethylbutyroyl)-5-ethyl-1,3-oxazolidine
Three and eight-tenths grams of 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine was combined with 1.3 g of pyridine in 25 ml of methylene chloride and 2.7 g of 3-trifluoromethylbutyroyl chloride in 10 ml of methylene chloride was added dropwise with stirring. The mixture was allowed to stand overnight and was stand overnight and was worked up with 50 ml of 5% NaOH and 200 ml of water. The mixture was dried and stripped under vacuum on the rotary evaporator. The structure was confirmed by NMR and infrared spectroscopy.

reactant | 2-(m-trifluoromethylphenyl)-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1)CC)(F)F | C12H14F3NO
reactant | pyridine | 1.3 g | N1=CC=CC=C1 | C5H5N
reactant | 3-trifluoromethylbutyroyl chloride | 2.7 g | FC(C(CC(=O)Cl)C)(F)F | C5H6ClF3O
reactant | NaOH | 50 ml | [OH-].[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 2-(m-Trifluoromethylphenyl)-3-(3-trifluoromethylbutyroyl)-5-ethyl-1,3-oxazolidine | FC(C=1C=C(C=CC1)C1OC(CN1C(CC(C)C(F)(F)F)=O)CC)(F)F | C17H19F6NO2
